US09387200B2
h) {[7-Ethynyl-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
The title compound was synthesized in analogy to Example 1 from 3-(4-fluoro-phenyl)-4-hydroxy-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine: MS (m/z) 370.1 (M−1).

reactant | 3-(4-fluoro-phenyl)-4-hydroxy-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#C[Si](C)(C)C)SN=C2C2=CC=C(C=C2)F)O | C20H19FN2O3SSi
reactant | glycine | NCC(=O)O | C2H5NO2
product | {[7-Ethynyl-3-(4-fluoro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | C(#C)C=1N=C(C(=C2C1SN=C2C2=CC=C(C=C2)F)O)C(=O)NCC(=O)O | C17H10FN3O4S
